US06110939
(±)-1,1-dimethylethyl trans-4-amino-2-(phenylmethyl)-1-piperidinecarboxylate (5 g), 1-(2-ethoxyethyl)-2-chloro-1H-benzimidazole (4.5 g) and copper (1.28 g) were stirred at 150° C. for 4 hours. The mixture was taken up in CH2Cl2 and filtered. The filtrate was washed with water/NH3. The organic layer was dried, filtered and the solvent evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2 /(CH3OH/NH3) 98/2). The pure fractions were collected and the solvent evaporated, yielding 6 g (73.7%) of (±)-1,1-dimethylethyl trans-4-[[1-(2-ethoxyethyl)-1H-benzimidazol-2-yl]amino]-2-(phenylmethyl)-1-piperidine-carboxylate (interm. 6).

reactant | (±)-1,1-dimethylethyl trans-4-amino-2-(phenylmethyl)-1-piperidinecarboxylate | 5 g | N[C@H]1C[C@@H](N(CC1)C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C17H26N2O2
reactant | 1-(2-ethoxyethyl)-2-chloro-1H-benzimidazole | 4.5 g | C(C)OCCN1C(=NC2=C1C=CC=C2)Cl | C11H13ClN2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | copper | 1.28 g | [Cu] | Cu
product | (±)-1,1-dimethylethyl trans-4-[[1-(2-ethoxyethyl)-1H-benzimidazol-2-yl]amino]-2-(phenylmethyl)-1-piperidine-carboxylate | 6 g, 73.7% | C(C)OCCN1C(=NC2=C1C=CC=C2)N[C@H]2C[C@@H](N(CC2)C(=O)OC(C)(C)C)CC2=CC=CC=C2 | C28H38N4O3
